US06583135B2
Preparation of tert-Butyl 7,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 51 mg, 1.3 mmol) was added to a solution of tert-butyl 7,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.30 g, 0.84 mmol) in DMF (5 mL). After 25 min, β-bromophenetole was added (0.23 mL). The reaction was quenched with saturated aqueous NH4Cl after 18 h and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (9:1) to give 0.32 g (79%) of a white solid: mp 131.5-133.0° C.; 1H NMR (300 MHz, CDCl3) δ 6.96 (m, 3H), 6.81 (m, 2H), 4.92 (t, J=4.9 Hz, 2H), 4.27 (m, 2H), 3.80 (m, 2H), 3.67 (m, 2H), 3.52 (m, 2H), 3.18 (m, 2H), 1.49 (s, 9H); IR (diffuse reflectance) 1686, 1498, 1474, 1404, 1366, 1350, 1318, 1295, 1248, 1227, 1221, 1167, 1116, 788, 757 cm−1; MS (EI) m/z 474 (M+), 418, 376, 374, 339, 334, 332, 77, 57, 56, 55; Anal. Calcd for C25H28Cl2N2O3: C, 63.16; H, 5.94; N, 5.89; found: C, 63.13; H, 6.00; N, 5.89.

reactant | Sodium hydride | 1.3 mmol, 51 mg | [H-].[Na+]
reactant | tert-butyl 7,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.84 mmol, 0.30 g | ClC1=CC=C(C=2C3=C(NC12)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | β-bromophenetole | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 7,10-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.32 g, 79% | ClC1=CC=C(C=2C3=C(N(C12)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
